US09034866B2
10-Bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (60 mg) was reacted with dimethylamine Hydrochloride similar to as described in Example 2 to produce crude 10-bromo-9-fluoro-N3,N3-dimethyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide which was then reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 41.3 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3,N3-dimethyl-5,6-dihydroimidazo[1,2-d][1,4]benz oxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 401 (M)+. 1H NMR (400 MHz, DMSO) δ 8.58 (d, J=8.5 Hz, 1H), 7.68 (s, 1H), 7.24 (s, 1H), 7.02 (d, J=10.5 Hz, 1H), 6.58 (s, 1H), 5.51 (s, 1H), 4.61-4.48 (m, 2H), 4.39-4.12 (m, 2H), 3.01 (s, 3H), 2.88 (s, 3H), 1.49 (s, 6H).

reactant | 10-Bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 60 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(N)=O)C(=O)O)C1)F | C13H9BrFN3O4
reactant | dimethylamine Hydrochloride | Cl.CNC
product | 10-bromo-9-fluoro-N3,N3-dimethyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)N(C)C)C1)F | C15H14BrFN4O3
